US05723408
0.4 Gram (1.1 mmol) of 4-methoxyimino-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide corresponding to pyrazole derivative (I-H), 0.23 g (1.2 mmol) of phenacyl bromide corresponding to compound B-A-Hal and 0.15 g of potassium carbonate were added to 10 ml of acetone, and the mixture was stirred under heat for 8 hours. Insolubles were removed by filtration, and then the acetone was distilled off. The residue was dissolved in ethyl acetate, and the mixture was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The ethyl acetate was distilled off under reduced pressure, and the residue was subjected to column chromatography (hexane/ethyl acetate) to give 4-methoxyimino-5-methyl-6-(1-ethyl-5-phenacyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide (Compound Ib-2) at a yield of 52%.

reactant | 4-methoxyimino-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 1.1 mmol | CON=C1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)(=O)=O | C17H19N3O5S
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | phenacyl bromide | 1.2 mmol, 0.23 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-methoxyimino-5-methyl-6-(1-ethyl-5-phenacyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | yield of 52% | CON=C1CCS(C2=CC=C(C(=C12)C)C(=O)C=1C=NN(C1OCC(=O)C1=CC=CC=C1)CC)(=O)=O | C25H25N3O6S
